US04379154
A mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 192 cc) is added dropwise, in the course of 10 minutes, to a 1.6 M solution of n-butyllithium in hexane (265 cc), kept under an argon atmosphere and at a temperature of about -60° C. A solution of 2-(pyrid-2-yl)-tetrahydrothiopyran (50.6 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 192 cc) is then added in the course of 15 minutes and at the same temperature. After stirring for 5 minutes, a solution of carbon disulphide (32 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 192 cc) is added in the course of 13 minutes. A solution of methyl iodide (60.5 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47/53 by volume; 192 cc) is then added in the course of 15 minutes. The reaction mixture is subsequently stirred for 45 minutes at -65° C. and then for 2 hours, whilst allowing the temperature to rise gradually to 5° C. It is then run into a mixture of distilled water (1500 cc) and ethyl acetate (900 cc). After decantation, the aqueous phase is extracted with ethyl acetate (500 cc). The organic extracts are combined, washed three times with distilled water (4500 cc in total), dried over anhydrous sodium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 70° C. The product obtained (87 g) is chromatographed on neutral silica gel (800 g) contained in a column of diameter 6 cm; the column is eluted with a cyclohexane/ethyl acetate mixture (95/5 by volume; 5700 cc), one 1000 cc fraction, one 800 cc fraction, one 900 cc fraction and one 3000 cc fraction being collected. The last fraction is concentrated to dryness under reduced pressure (2 mm Hg; 2.7 kPa) at 50° C. The product obtained (24 g) is dissolved in boiling diisopropyl ether (100 cc); decolourising charcoal (0.4 g) is added to the solution, which is filtered hot, and the filtrate is then cooled for 1 hour at 0° C. The resulting crystals are filtered off, washed twice with diisopropyl ether (30 cc in total) and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 35° C. Methyl 2-(pyrid-2-yl)-tetrahydrothiopyran-2-carbodithioate (14.5 g), melting at 79° C., is thus obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(pyrid-2-yl)-tetrahydrothiopyran | 50.6 g | N1=C(C=CC=C1)C1SCCCC1 | C10H13NS
reactant | methyl iodide | 60.5 g | CI | CH3I
reactant | diisopropyl ether | 100 cc | C(C)(C)OC(C)C | C6H14O
reactant | charcoal | 0.4 g | C | CH4
reactant | carbon disulphide | 32 g | C(=S)=S | CS2
solvent | hexane | 265 cc | CCCCCC | C6H14
solvent | ethyl acetate | 900 cc | C(C)(=O)OCC | C4H8O2
solvent | water | 1500 cc | O | H2O
solvent | tetrahydrofuran | 192 cc | O1CCCC1 | C4H8O
solvent | hexamethylphosphorotriamide | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | tetrahydrofuran | 192 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 192 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 192 cc | O1CCCC1 | C4H8O
product | Methyl 2-(pyrid-2-yl)-tetrahydrothiopyran-2-carbodithioate | 14.5 g | N1=C(C=CC=C1)C1(SCCCC1)C(=S)SC | C12H15NS3
